US06562857B2
2-[2-cyano-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-I-yl]-N-[2-(3-ethoxy-4-methoxyphenyl) ethyl]acetamide
A solution of [2-cyano-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-1-yl]acetic acid (0.6 g, 1.8 mmol), 3-ethoxy-4-methoxyphenylethylamine (0.36 g, 1.9 mmol), diiso-propylethylamine (0.26 g, 2 mmol), and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.7 g, 1.8 mmol) in dimethylformamide (20 ml) was stirred at room temperature for 20 hours. The mixture was diluted with water and extracted with ethylacetate. The ethylacetate solution was washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was recrystallized from ethanol to afford the title compound, m.p. 160-162° C. (0.2 g, 22%): 1H-NMR (DMSO-d6) δ 1.3 (t, J=6.9 Hz, 3H), 1.59 (s, 6H), 2.61 (t, 2H, J=7 Hz), 3.29 (q, J=6.9 Hz, 2H), 3.71 (s, 3H), 3.97 (q, J=6.9 Hz, 2H), 4.6 (s, 2H), 6.32 (d, J=5.1 Hz, 1H), 6.65 (dd, J=7.6, 2.0 Hz, 1H), 6.77 (d, J=2.3, 1H), 6.83 (d, J=8.3 Hz, 1H), 6.96 (d, J=8.7 Hz, 1H), 7.05 (d, J=4.1 Hz, 1H), 7.26 (m, 2H), 8.3 (t, J=6 Hz, 1H), 10.42 (s, 1H), MS (APCI (+)) m/z 503 (M+H)+

reactant | [2-cyano-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-1-yl]acetic acid | 1.8 mmol, 0.6 g | C(#N)C=1N(C(=CC1)C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)CC(=O)O | C17H15N3O4
reactant | 3-ethoxy-4-methoxyphenylethylamine | 1.9 mmol, 0.36 g | C(C)OC=1C=C(C=CC1OC)CCN | C11H17NO2
reactant | diiso-propylethylamine | 2 mmol, 0.26 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.8 mmol, 0.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[2-cyano-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrol-I-yl]-N-[2-(3-ethoxy-4-methoxyphenyl) ethyl]acetamide | C(#N)C=1N(C(=CC1)C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)CC(=O)NCCC1=CC(=C(C=C1)OC)OCC | C28H30N4O5
